### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry): subscheme associated to an ideal sheaf

### PR DESCRIPTION
**Pull request by erdOne**
---

- [x] depends on: #23890

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/IdealSheaf.lean [hunk 1]
```diff
@@ -610,10 +610,20 @@ lemma Hom.support_ker (f : X.Hom Y) [QuasiCompact f] :
...
     exact f.range_subset_ker_support
 
+/-- The functor taking a morphism into `Y` to its kernel as an ideal sheaf on `Y`. -/
+@[simps]
+def kerFunctor (Y : Scheme.{u}) : (Over Y)ᵒᵖ ⥤ IdealSheafData Y where
+  obj f := f.unop.hom.ker
+  map {f g} hfg := homOfLE <| by
+      simp only [Functor.id_obj, Functor.const_obj_obj, OrderDual.toDual_le_toDual]
+      rw [← Over.w hfg.unop]
+      exact f.unop.hom.le_ker_comp _
```
Comment (Paul-Lez) [inline Mathlib/AlgebraicGeometry/IdealSheaf.lean:620]: I'd be tempted to do this as
```suggestion
  homOfLE <| by simpa only [Functor.id_obj, Functor.const_obj_obj,
    OrderDual.toDual_le_toDual, ← Over.w hfg.unop] using f.unop.hom.le_ker_comp _
```

File: Mathlib/AlgebraicGeometry/Scheme.lean [hunk 2]
```diff
@@ -352,6 +352,29 @@ theorem inv_appTop {X Y : Scheme} (f : X ⟶ Y) [IsIso f] :
...
+def Hom.copyBase {X Y : Scheme} (f : X.Hom Y) (g : X → Y) (h : f.base = g) : X ⟶ Y where
+  base := TopCat.ofHom ⟨g, h ▸ f.base.1.2⟩
+  c := f.c ≫ (TopCat.Presheaf.pushforwardEq (by subst h; rfl) _).hom
+  prop x := by
+    subst h
+    convert f.prop x using 4
+    convert Category.comp_id f.c
+    ext
+    simp
+    rfl
```
Comment (Paul-Lez) [inline Mathlib/AlgebraicGeometry/Scheme.lean:365]:
```suggestion
    aesop_cat
```

File: Mathlib/AlgebraicGeometry/IdealSheaf.lean [hunk 3]
```diff
@@ -887,8 +904,293 @@ def glueData : Scheme.GlueData where
...
+  simp only [Category.assoc, Hom.naturality_assoc, TopologicalSpace.Opens.map_top,
+    Quiver.Hom.unop_op, ← ΓSpecIso_inv_naturality_assoc] at this
+  simp_rw [← Category.assoc, ← IsIso.comp_inv_eq] at this
+  rw [← this]
+  simp only [← Functor.map_inv, inv_eqToHom, Category.assoc, ← Functor.map_comp, IsIso.Iso.inv_inv,
+    eqToHom_op, Iso.hom_inv_id_assoc, Hom.appIso_inv_naturality_assoc, Functor.op_obj,
+    Functor.op_map, unop_comp, unop_inv, Quiver.Hom.unop_op, eqToHom_unop, Hom.app_appIso_inv_assoc,
+    TopologicalSpace.Opens.carrier_eq_coe, TopologicalSpace.Opens.map_coe, homOfLE_leOfHom]
+  convert (Category.comp_id _).symm
+  exact CategoryTheory.Functor.map_id _ _
```
Comment (Paul-Lez) [inline Mathlib/AlgebraicGeometry/IdealSheaf.lean:1118]: Just a bit of moving around/merging things into the same simp call
```suggestion
  have := I.subschemeCover_map_subschemeι U
  simp only [glueDataObjι, Category.assoc, IsAffineOpen.isoSpec_inv_ι] at this
  replace this := Scheme.congr_app this U
  simp only [comp_coeBase, TopologicalSpace.Opens.map_comp_obj, comp_app,
    IsAffineOpen.fromSpec_app_self, eqToHom_op, Category.assoc, NatTrans.naturality,
    TopCat.Presheaf.pushforward_obj_obj, TopologicalSpace.Opens.map_top,
    TopCat.Presheaf.pushforward_obj_map, eqToHom_unop, ← ΓSpecIso_inv_naturality_assoc] at this
  simp_rw [← Category.assoc, ← IsIso.comp_inv_eq] at this
  simp only [← this, ← Functor.map_inv, inv_eqToHom, Category.assoc, eqToHom_unop,
    ← Functor.map_comp, IsIso.Iso.inv_inv, eqToHom_op, Iso.hom_inv_id_assoc,
    Hom.appIso_inv_naturality_assoc, Functor.op_obj, Functor.op_map, unop_comp, unop_inv,
    Quiver.Hom.unop_op, Hom.app_appIso_inv_assoc, TopologicalSpace.Opens.carrier_eq_coe,
    TopologicalSpace.Opens.map_coe, homOfLE_leOfHom]
  convert (Category.comp_id _).symm
  exact CategoryTheory.Functor.map_id _ _

````

File: Mathlib/AlgebraicGeometry/IdealSheaf.lean [hunk 4]
```diff
@@ -887,8 +902,290 @@ def glueData : Scheme.GlueData where
...
+  simp [Set.range_comp, this]
+
+private lemma opensRange_glueData_ι_subschemeIso_inv (U : X.affineOpens) :
+    (I.glueData.ι U ≫ I.subschemeIso.inv).opensRange = I.subschemeι ⁻¹ᵁ U := by
+  ext1
+  simp only [glueData_U, Hom.coe_opensRange, comp_coeBase, TopCat.hom_comp, ContinuousMap.coe_comp,
+    TopologicalSpace.Opens.map_coe, Set.range_comp, I.range_glueData_ι]
+  show (Scheme.homeoOfIso I.subschemeIso).toEquiv.symm '' _ = _
+  rw [← Set.preimage_equiv_eq_image_symm, subschemeι_def]
+  rfl
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/IdealSheaf.lean:1072]:
```suggestion
lemma _root_.AlgebraicGeometry.Scheme.coe_homeoOfIso {X Y : Scheme.{u}} (e : X ≅ Y) :
    ⇑(homeoOfIso e) = e.hom.base := rfl

lemma _root_.AlgebraicGeometry.Scheme.coe_homeoOfIso_symm {X Y : Scheme.{u}} (e : X ≅ Y) :
    ⇑(homeoOfIso e.symm) = e.inv.base := rfl

private lemma opensRange_glueData_ι_subschemeIso_inv (U : X.affineOpens) :
    (I.glueData.ι U ≫ I.subschemeIso.inv).opensRange = I.subschemeι ⁻¹ᵁ U := by
  ext1
  simp [Set.range_comp, I.range_glueData_ι, subschemeι_def, Set.preimage_comp, coe_homeoOfIso,
    ← coe_homeoOfIso_symm, ← homeoOfIso_symm, ← Homeomorph.coe_symm_toEquiv,
    ← Set.preimage_equiv_eq_image_symm]
```

File: Mathlib/AlgebraicGeometry/IdealSheaf.lean [hunk 5]
```diff
@@ -887,8 +902,290 @@ def glueData : Scheme.GlueData where
...
+  ext x
+  show (I.gluedHomeo (I.gluedHomeo.symm x)).1 = x.1
+  rw [I.gluedHomeo.apply_symm_apply]
+
+lemma subschemeι_apply (x : I.subscheme) : I.subschemeι.base x = x.1 := rfl
+
+private lemma subschemeι_def : I.subschemeι = I.subschemeIso.hom ≫ I.gluedTo :=
+  Scheme.Hom.copyBase_eq _ _ _
+
+instance : IsPreimmersion I.subschemeι := by
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/IdealSheaf.lean:1050]:
```suggestion
/-- See `AlgebraicGeometry.Morphisms.ClosedImmersion` for the closed immersion version. -/
instance : IsPreimmersion I.subschemeι := by
```

File: Mathlib/AlgebraicGeometry/IdealSheaf.lean [hunk 6]
```diff
@@ -887,8 +902,290 @@ def glueData : Scheme.GlueData where
...
+
+@[simp]
+lemma subschemeCover_map_subschemeι (U : X.affineOpens) :
+    I.subschemeCover.map U ≫ I.subschemeι = I.glueDataObjι U ≫ U.1.ι := by
+  simp [subschemeCover, subschemeι_def]
+
+lemma subschemeι_app (U : X.affineOpens) : I.subschemeι.app U =
+    CommRingCat.ofHom (Ideal.Quotient.mk (I.ideal U)) ≫
+    (Scheme.ΓSpecIso (.of (Γ(X, U) ⧸ I.ideal U))).inv ≫ ((I.subschemeCover.map U).appIso _).inv ≫
+      I.subscheme.presheaf.map (eqToHom (by simp)).op := by
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/IdealSheaf.lean:1100]: Maybe an `Arrow.mk` isomorphism version would be useful?

File: Mathlib/AlgebraicGeometry/Morphisms/ClosedImmersion.lean [hunk 7]
```diff
@@ -4,6 +4,7 @@ Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Amelia Livingston, Christian Merten, Jonas van der Schaaf
 -/
 import Mathlib.AlgebraicGeometry.Morphisms.Affine
+import Mathlib.AlgebraicGeometry.IdealSheaf
```
[the remark this answers is not in the document]
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/Morphisms/ClosedImmersion.lean:7]: Yes. The `IdealSheafData` API could probably simplify the proof of closed immersion <=> affine + locally surjective on sections.

File: Mathlib/AlgebraicGeometry/IdealSheaf.lean (hunk 6 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/IdealSheaf.lean]: I packaged the iso so that it spells `I.subschemeι.app U = CommRingCat.ofHom (Ideal.Quotient.mk (I.ideal U)) ≫ (I.subschemeObjIso U).inv` now. Do you still think we need an `Arrow.mk` iso?

File: Mathlib/AlgebraicGeometry/IdealSheaf.lean [hunk 8]
```diff
@@ -989,8 +1004,303 @@ def glueData : Scheme.GlueData where
...
+  simp [← range_gluedTo, I.subschemeι_def, Set.range_comp,
+    Set.range_eq_univ.mpr I.subschemeIso.hom.homeomorph.surjective]
+
+@[simp]
+lemma _root_.AlgebraicGeometry.Scheme.coe_homeoOfIso {X Y : Scheme.{u}} (e : X ≅ Y) :
+    ⇑(homeoOfIso e) = e.hom.base := rfl
+
+@[simp]
+lemma _root_.AlgebraicGeometry.Scheme.coe_homeoOfIso_symm {X Y : Scheme.{u}} (e : X ≅ Y) :
+    ⇑(homeoOfIso e.symm) = e.inv.base := rfl
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/IdealSheaf.lean:1172]: These two should not be here.

**Review by chrisflav — APPROVED** [review]
Thanks!

maintainer delegate

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

**Comment by erdOne** [comment]
bors merge
